*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.002/0.002
*-- die chiplet5:  metal layers: 2


.subckt chiplet5
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
*-- p/g port #: 8/8
+nd_1_0_7000_5000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 5.284e-01ns 0.0  5.784e-01ns 1.1e-02  7.443e-01ns 1.1e-02  7.943e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 36.9775
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 4.76897e-12
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 8.599e-01ns 0.0  9.099e-01ns 1.4e-02  9.425e-01ns 1.4e-02  9.925e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 79.8773
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 9.62462e-13
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 4.188e-01ns 0.0  4.688e-01ns 7.1e-03  8.629e-01ns 7.1e-03  9.129e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 28.4761
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 6.32092e-12
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 1.013e-01ns 0.0  1.513e-01ns 1.5e-02  5.275e-01ns 1.5e-02  5.775e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 13.9689
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 5.99031e-13
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 6.925e-01ns 0.0  7.425e-01ns 2.0e-02  9.462e-01ns 2.0e-02  9.962e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 17.3109
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 8.06357e-12
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 2.484e-01ns 0.0  2.984e-01ns 2.9e-02  3.832e-01ns 2.9e-02  4.332e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 23.2705
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 2.98428e-12
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 8.250e-01ns 0.0  8.750e-01ns 8.2e-02  8.961e-01ns 8.2e-02  9.461e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 15.4569
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 4.56065e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 5.136e-01ns 0.0  5.636e-01ns 1.1e-02  9.241e-01ns 1.1e-02  9.741e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 20.0055
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 5.09033e-12
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 1.994e-01ns 0.0  2.494e-01ns 3.0e-02  3.051e-01ns 3.0e-02  3.551e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 28.0093
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 4.7108e-12
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 7.863e-01ns 0.0  8.363e-01ns 8.6e-02  8.467e-01ns 8.6e-02  8.967e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 17.2856
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 3.52423e-12
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 3.435e-01ns 0.0  3.935e-01ns 8.4e-03  8.070e-01ns 8.4e-03  8.570e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 23.0668
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 7.07384e-12
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 4.809e-01ns 0.0  5.309e-01ns 1.7e-02  9.053e-01ns 1.7e-02  9.553e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 12.437
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 1.55281e-11
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 6.150e-01ns 0.0  6.650e-01ns 2.1e-02  6.765e-01ns 2.1e-02  7.265e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 69.7556
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 3.30957e-13
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 7.489e-01ns 0.0  7.989e-01ns 6.0e-02  8.817e-01ns 6.0e-02  9.317e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 11.3415
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 4.69848e-12
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 7.543e-01ns 0.0  8.043e-01ns 2.5e-02  8.341e-01ns 2.5e-02  8.841e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 45.4097
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 4.02767e-12
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 8.954e-01ns 0.0  9.454e-01ns 9.9e-02  9.493e-01ns 9.9e-02  9.993e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 16.8427
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 1.10121e-11
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 5.780e-01ns 0.0  6.280e-01ns 1.9e-02  7.899e-01ns 1.9e-02  8.399e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 22.6278
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 6.65101e-13
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 7.109e-01ns 0.0  7.609e-01ns 7.6e-02  7.900e-01ns 7.6e-02  8.400e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 14.92
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 3.02801e-12
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 3.981e-01ns 0.0  4.481e-01ns 1.6e-04  7.800e-01ns 1.6e-04  8.300e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 1519.95
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 8.79553e-14
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 7.972e-01ns 0.0  8.472e-01ns 6.3e-02  9.238e-01ns 6.3e-02  9.738e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 11.2166
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 5.68109e-12
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 2.789e-02ns 0.0  7.789e-02ns 9.4e-03  7.364e-01ns 9.4e-03  7.864e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 13.4649
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 1.43819e-11
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 4.891e-01ns 0.0  5.391e-01ns 1.9e-02  7.048e-01ns 1.9e-02  7.548e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 22.1745
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 8.82871e-12
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 6.261e-01ns 0.0  6.761e-01ns 3.7e-02  8.272e-01ns 3.7e-02  8.772e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 12.1335
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 2.09663e-12
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 3.126e-01ns 0.0  3.626e-01ns 3.1e-03  7.745e-01ns 3.1e-03  8.245e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 63.1231
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 8.90672e-13
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 4.474e-01ns 0.0  4.974e-01ns 1.1e-02  8.862e-01ns 1.1e-02  9.362e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 18.8636
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 4.51858e-12
is_0_0_0_0 0 ns_1_0_0_0 pwl(0 0.0 5.508e-01ns 0.0  6.008e-01ns 7.2e-03  7.653e-01ns 7.2e-03  8.153e-01ns 0.0)
rsesr_0_0_0_0 ns_1_0_0_0 ns_1_0_0_0_ci 58.077
cs_0_0_0_0 ns_1_0_0_0_ci 0 1.88735e-12
is_0_0_0_1 0 ns_1_0_2000_0 pwl(0 0.0 5.622e-01ns 0.0  6.122e-01ns 1.3e-04  9.446e-01ns 1.3e-04  9.946e-01ns 0.0)
rsesr_0_0_0_1 ns_1_0_2000_0 ns_1_0_2000_0_ci 1789.41
cs_0_0_0_1 ns_1_0_2000_0_ci 0 5.9947e-15
is_0_0_0_2 0 ns_1_0_4000_0 pwl(0 0.0 5.650e-01ns 0.0  6.150e-01ns 3.6e-02  7.789e-01ns 3.6e-02  8.289e-01ns 0.0)
rsesr_0_0_0_2 ns_1_0_4000_0 ns_1_0_4000_0_ci 11.668
cs_0_0_0_2 ns_1_0_4000_0_ci 0 1.08405e-12
is_0_0_0_3 0 ns_1_0_6000_0 pwl(0 0.0 7.050e-01ns 0.0  7.550e-01ns 3.5e-02  8.803e-01ns 3.5e-02  9.303e-01ns 0.0)
rsesr_0_0_0_3 ns_1_0_6000_0 ns_1_0_6000_0_ci 14.5373
cs_0_0_0_3 ns_1_0_6000_0_ci 0 2.97409e-12
is_0_0_0_4 0 ns_1_0_8000_0 pwl(0 0.0 3.889e-01ns 0.0  4.389e-01ns 1.0e-02  8.414e-01ns 1.0e-02  8.914e-01ns 0.0)
rsesr_0_0_0_4 ns_1_0_8000_0 ns_1_0_8000_0_ci 19.2882
cs_0_0_0_4 ns_1_0_8000_0_ci 0 3.76752e-12
is_0_0_0_5 0 ns_1_0_0_2000 pwl(0 0.0 7.324e-02ns 0.0  1.232e-01ns 3.8e-03  9.006e-01ns 3.8e-03  9.506e-01ns 0.0)
rsesr_0_0_0_5 ns_1_0_0_2000 ns_1_0_0_2000_ci 28.6247
cs_0_0_0_5 ns_1_0_0_2000_ci 0 9.16025e-14
is_0_0_0_6 0 ns_1_0_2000_2000 pwl(0 0.0 2.097e-01ns 0.0  2.597e-01ns 7.8e-03  9.161e-01ns 7.8e-03  9.661e-01ns 0.0)
rsesr_0_0_0_6 ns_1_0_2000_2000 ns_1_0_2000_2000_ci 16.329
cs_0_0_0_6 ns_1_0_2000_2000_ci 0 2.33583e-13
is_0_0_0_7 0 ns_1_0_4000_2000 pwl(0 0.0 2.191e-01ns 0.0  2.691e-01ns 8.5e-03  6.796e-01ns 8.5e-03  7.296e-01ns 0.0)
rsesr_0_0_0_7 ns_1_0_4000_2000 ns_1_0_4000_2000_ci 22.9375
cs_0_0_0_7 ns_1_0_4000_2000_ci 0 1.49661e-12
is_0_0_0_8 0 ns_1_0_6000_2000 pwl(0 0.0 3.496e-01ns 0.0  3.996e-01ns 1.3e-02  5.385e-01ns 1.3e-02  5.885e-01ns 0.0)
rsesr_0_0_0_8 ns_1_0_6000_2000 ns_1_0_6000_2000_ci 36.8908
cs_0_0_0_8 ns_1_0_6000_2000_ci 0 4.45096e-12
is_0_0_0_9 0 ns_1_0_8000_2000 pwl(0 0.0 3.963e-02ns 0.0  8.963e-02ns 5.8e-03  8.637e-01ns 5.8e-03  9.137e-01ns 0.0)
rsesr_0_0_0_9 ns_1_0_8000_2000 ns_1_0_8000_2000_ci 18.772
cs_0_0_0_9 ns_1_0_8000_2000_ci 0 5.06411e-12
is_0_0_0_10 0 ns_1_0_0_4000 pwl(0 0.0 1.733e-01ns 0.0  2.233e-01ns 9.3e-03  5.204e-01ns 9.3e-03  5.704e-01ns 0.0)
rsesr_0_0_0_10 ns_1_0_0_4000 ns_1_0_0_4000_ci 27.8919
cs_0_0_0_10 ns_1_0_0_4000_ci 0 9.16121e-13
is_0_0_0_11 0 ns_1_0_2000_4000 pwl(0 0.0 3.098e-01ns 0.0  3.598e-01ns 8.4e-02  3.942e-01ns 8.4e-02  4.442e-01ns 0.0)
rsesr_0_0_0_11 ns_1_0_2000_4000 ns_1_0_2000_4000_ci 12.6701
cs_0_0_0_11 ns_1_0_2000_4000_ci 0 2.08567e-12
is_0_0_0_12 0 ns_1_0_4000_4000 pwl(0 0.0 7.696e-01ns 0.0  8.196e-01ns 3.9e-02  9.117e-01ns 3.9e-02  9.617e-01ns 0.0)
rsesr_0_0_0_12 ns_1_0_4000_4000 ns_1_0_4000_4000_ci 16.3699
cs_0_0_0_12 ns_1_0_4000_4000_ci 0 1.04674e-11
is_0_0_0_13 0 ns_1_0_6000_4000 pwl(0 0.0 3.906e-01ns 0.0  4.406e-01ns 1.3e-02  5.898e-01ns 1.3e-02  6.398e-01ns 0.0)
rsesr_0_0_0_13 ns_1_0_6000_4000 ns_1_0_6000_4000_ci 35.4221
cs_0_0_0_13 ns_1_0_6000_4000_ci 0 4.8931e-12
is_0_0_0_14 0 ns_1_0_8000_4000 pwl(0 0.0 5.241e-01ns 0.0  5.741e-01ns 4.8e-03  7.423e-01ns 4.8e-03  7.923e-01ns 0.0)
rsesr_0_0_0_14 ns_1_0_8000_4000 ns_1_0_8000_4000_ci 86.3858
cs_0_0_0_14 ns_1_0_8000_4000_ci 0 3.88829e-14
is_0_0_0_15 0 ns_1_0_0_6000 pwl(0 0.0 6.635e-01ns 0.0  7.135e-01ns 6.7e-02  7.359e-01ns 6.7e-02  7.859e-01ns 0.0)
rsesr_0_0_0_15 ns_1_0_0_6000 ns_1_0_0_6000_ci 18.4489
cs_0_0_0_15 ns_1_0_0_6000_ci 0 1.85692e-12
is_0_0_0_16 0 ns_1_0_2000_6000 pwl(0 0.0 3.467e-01ns 0.0  3.967e-01ns 1.8e-02  5.310e-01ns 1.8e-02  5.810e-01ns 0.0)
rsesr_0_0_0_16 ns_1_0_2000_6000 ns_1_0_2000_6000_ci 26.7426
cs_0_0_0_16 ns_1_0_2000_6000_ci 0 6.0918e-12
is_0_0_0_17 0 ns_1_0_4000_6000 pwl(0 0.0 4.801e-01ns 0.0  5.301e-01ns 3.6e-02  6.354e-01ns 3.6e-02  6.854e-01ns 0.0)
rsesr_0_0_0_17 ns_1_0_4000_6000 ns_1_0_4000_6000_ci 15.9581
cs_0_0_0_17 ns_1_0_4000_6000_ci 0 5.86926e-12
is_0_0_0_18 0 ns_1_0_6000_6000 pwl(0 0.0 1.657e-01ns 0.0  2.157e-01ns 2.8e-02  5.109e-01ns 2.8e-02  5.609e-01ns 0.0)
rsesr_0_0_0_18 ns_1_0_6000_6000 ns_1_0_6000_6000_ci 9.45707
cs_0_0_0_18 ns_1_0_6000_6000_ci 0 1.29978e-11
is_0_0_0_19 0 ns_1_0_8000_6000 pwl(0 0.0 3.017e-01ns 0.0  3.517e-01ns 7.0e-03  6.796e-01ns 7.0e-03  7.296e-01ns 0.0)
rsesr_0_0_0_19 ns_1_0_8000_6000 ns_1_0_8000_6000_ci 33.9686
cs_0_0_0_19 ns_1_0_8000_6000_ci 0 1.57573e-12
is_0_0_0_20 0 ns_1_0_0_8000 pwl(0 0.0 7.575e-01ns 0.0  8.075e-01ns 5.0e-02  8.879e-01ns 5.0e-02  9.379e-01ns 0.0)
rsesr_0_0_0_20 ns_1_0_0_8000 ns_1_0_0_8000_ci 13.9051
cs_0_0_0_20 ns_1_0_0_8000_ci 0 1.11834e-11
is_0_0_0_21 0 ns_1_0_2000_8000 pwl(0 0.0 7.692e-01ns 0.0  8.192e-01ns 1.1e-01  8.470e-01ns 1.1e-01  8.970e-01ns 0.0)
rsesr_0_0_0_21 ns_1_0_2000_8000 ns_1_0_2000_8000_ci 10.2325
cs_0_0_0_21 ns_1_0_2000_8000_ci 0 5.70745e-12
is_0_0_0_22 0 ns_1_0_4000_8000 pwl(0 0.0 4.501e-01ns 0.0  5.001e-01ns 3.4e-02  6.648e-01ns 3.4e-02  7.148e-01ns 0.0)
rsesr_0_0_0_22 ns_1_0_4000_8000 ns_1_0_4000_8000_ci 12.4468
cs_0_0_0_22 ns_1_0_4000_8000_ci 0 1.50591e-11
is_0_0_0_23 0 ns_1_0_6000_8000 pwl(0 0.0 5.912e-01ns 0.0  6.412e-01ns 8.0e-03  6.442e-01ns 8.0e-03  6.942e-01ns 0.0)
rsesr_0_0_0_23 ns_1_0_6000_8000 ns_1_0_6000_8000_ci 212.101
cs_0_0_0_23 ns_1_0_6000_8000_ci 0 8.5437e-14
is_0_0_0_24 0 ns_1_0_8000_8000 pwl(0 0.0 7.254e-01ns 0.0  7.754e-01ns 1.9e-02  8.664e-01ns 1.9e-02  9.164e-01ns 0.0)
rsesr_0_0_0_24 ns_1_0_8000_8000 ns_1_0_8000_8000_ci 32.8012
cs_0_0_0_24 ns_1_0_8000_8000_ci 0 1.45106e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val164'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val165'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val166'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val167'
rd_add0 nd0 0 'esr43'
rd_add1 nd1 0 'esr44'
rd_add2 nd2 0 'esr45'
rd_add3 nd3 0 'esr46'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_6000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_8000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_6000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_4000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_8000  0.001

.ends chiplet5
